US04885158
Preparation of octadecyldimethyl [3-(2-pyrrolidonyl)propyl]ammonium tosylate according to
To a 100 ml round bottom flask equipped with a thermometer and stirrer containing 167 g. of propylene glycol was added 50.7 g. of octadecyl-p-toluenesulfonate and 20.9 g. of [(dimethylamino)propyl]-2-pyrrolidone. The mixture was heated to 100° C. and stirred at that temperature for 6 hours after which it was cooled and recovered. Analysis by quaternary tetraphenyl boron indicated 22% activity corresponding to a 74% conversion.

reactant | propylene glycol | C(C(C)O)O | C3H8O2
reactant | octadecyl-p-toluenesulfonate | C(CCCCCCCCCCCCCCCCC)OS(=O)(=O)C1=CC=C(C=C1)C | C25H44O3S
reactant | [(dimethylamino)propyl]-2-pyrrolidone | CN(C)CCCN1C(CCC1)=O | C9H18N2O
product | octadecyldimethyl [3-(2-pyrrolidonyl)propyl]ammonium tosylate | S(=O)(=O)([O-])C1=CC=C(C)C=C1.C(CCCCCCCCCCCCCCCCC)[N+](CCCN1C(CCC1)=O)(C)C | InChI=1S/C27H55N2O.C7H8O3S/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-25-29(2,3)26-21-24-28-23-20-22-27(28)30;1-6-2-4-7(5-3-6)11(8,9)10/h4-26H2,1-3H3;2-5H,1H3,(H,8,9,10)/q+1;/p-1
